US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with 2,3,4-trifluoroaniline to yield 2-[(2,3,4-trifluorophenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 2,3,4-trifluoroaniline | FC1=C(N)C=CC(=C1F)F | C6H4F3N
product | 2-[(2,3,4-trifluorophenyl)amino]phenylacetic acid | FC1=C(C=CC(=C1F)F)NC1=C(C=CC=C1)CC(=O)O | C14H10F3NO2
